US07371865B2
can be prepared from (E)-(R)-3-(tert-Butyl-dimethyl-silanyloxy)-7-[3-(4-fluoro-phenyl)-1-isopropyl-1H-indol-2-yl]-5-oxo-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide by deprotection with HCl in ethanol according to the procedure described above for the preparation of (E)-(R)-7-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3-hydroxy-5-oxo-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide. Chromatography on silicagel with ethyl acetate/n-hexanes (9:1) as eluent affords (E)-(R)-7-[3-(4-Fluoro-phenyl)-1-isopropyl-1H-indol-2-yl]-3-hydroxy-5-oxo-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide as a yellow foam. Rf=0.30 (TLC on silicagel, ethyl acetate/hexanes 9:1 as eluent). [α]D20=−35.5° (CH3OH, c=1) MS (ES+, m/z): 535 ([MNa]+, 100%); IR (KBr): 3307 (broad), 3061, 2973, 2932, 1645, 1590, 1539, 1495, 1452, 1421, 1371, 1339, 1273, 1221, 1155, 1138, 1105, 1095, 1048, 1016, 973, 910, 839, 815, 744, 719, 700 cm−1. Microanalysis: calculated (found) for C32H33FN2O3: 74.98 (74.20) % C, 6.49 (6.49) % H, 5.46 (5.49) % N, 3.71 (3.58) % F.

reactant | (E)-(R)-3-(tert-Butyl-dimethyl-silanyloxy)-7-[3-(4-fluoro-phenyl)-1-isopropyl-1H-indol-2-yl]-5-oxo-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide | C1(=CC=CC=C1)[C@H](C)NC(C[C@@H](CC(\C=C\C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)=O)O[Si](C)(C)C(C)(C)C)=O | C38H47FN2O3Si
reactant | HCl | Cl | ClH
reactant | (E)-(R)-7-[2-cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3-hydroxy-5-oxo-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide | C1(=CC=CC=C1)[C@H](C)NC(C[C@@H](CC(\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)=O)O)=O | C33H31FN2O3
solvent | ethanol | C(C)O | C2H6O
product | (E)-(R)-7-[3-(4-Fluoro-phenyl)-1-isopropyl-1H-indol-2-yl]-3-hydroxy-5-oxo-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide | C1(=CC=CC=C1)[C@H](C)NC(C[C@@H](CC(\C=C\C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)=O)O)=O | C32H33FN2O3
